US04978665
4-chloro-5-(3-ethoxy-4-methoxybenzylamino)-6-sec-butoxy-3(2H)pyridazinone (Compound No. 88)
A mixture comprising 150 mg of 2-(2-trimethylsilylethoxymethyl)-4-chloro-5-(3-ethoxy-4-methoxybenzylamino)-6-sec-butoxy-3(2H)pyridazinone prepared in Reference Example 4, 1.46 ml of tetra-n-butylammonium fluoride (1M tetrahydrofuran solution) and 5 ml of 1,2-dimethoxyethane, was refluxed under stirring for 3 hours. The solvent was distilled off under reduced pressure, and the residue thereby obtained was extracted with chloroform. The extract was washed twice with 1N hydrochloric acid and once with water in this order and dried over sodium sulfate. Then, the solvent was distilled off to obtain a dark brown oily substance. The oily substance was purified by silica gel preparative thin layer chromatography by using ethyl acetate as the developer, to obtain a light yellow solid substance. The product was crystallized from chloroform-diethyl ether, to obtain 50 mg of the above identified compound having a melting point of from 130.5° to 132° C. as slightly yellow crystals.

reactant | 2-(2-trimethylsilylethoxymethyl)-4-chloro-5-(3-ethoxy-4-methoxybenzylamino)-6-sec-butoxy-3(2H)pyridazinone | 150 mg | C[Si](CCOCN1N=C(C(=C(C1=O)Cl)NCC1=CC(=C(C=C1)OC)OCC)OC(C)CC)(C)C | C24H38ClN3O5Si
reactant | tetra-n-butylammonium fluoride | 1M, 1.46 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | 4-chloro-5-(3-ethoxy-4-methoxybenzylamino)-6-sec-butoxy-3(2H)pyridazinone | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OCC)OC(C)CC)=O | C18H24ClN3O4
